US05405851
C. N-(8-Bromo-1,2-dihydro-9-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide
N-(8-Bromo-1,2,5,6-tetrahydro-9-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide (0.23 g, 0.5 mmole) was reacted with N-bromosuccinimide (0.12 g, 0.7 mmole) and pyridine (0.06 ml, 0.8 mmole) in dry benzene (150 ml) in the same manner as in example 2. The crude product was purified by trituration with methanol:water (1:9), followed by filtration and washing (water and methanol) to give, after drying, N-(8-bromo-1,2-dihydro-9-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide as a pale yellow solid. (0.20 g, 94%) 1H NMR(DMSO-d6, 200 MHz) δ: 1.27(s, 9H, t-butyl); 7.76(d, J=9.0 Hz, 1H, Ar); 8.32(d, J=9.0 Hz, 1H, Ar); 8.65(s, 1H, Ar); 10.21(s, 1H, Ar); 11.40(s, 1H, NH); 12.45(br s, 1H, NH).

reactant | N-(8-Bromo-1,2,5,6-tetrahydro-9-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | 0.5 mmole, 0.23 g | BrC1=CC2=C(C=3C(NC(=NC3CC2)NC(C(C)(C)C)=O)=O)C=C1[N+](=O)[O-] | C17H17BrN4O4
reactant | N-bromosuccinimide | 0.7 mmole, 0.12 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | pyridine | 0.8 mmole, 0.06 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | N-(8-Bromo-1,2-dihydro-9-nitro-1-oxobenzo[f]quinazolin-3-yl)pivalamide | BrC1=CC2=C(C=3C(NC(=NC3C=C2)NC(C(C)(C)C)=O)=O)C=C1[N+](=O)[O-] | C17H15BrN4O4
